US07759512B2
Preparation of 2,2,3,4,4,4-hexafluorobutyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate
2,2,3,4,4,4-hexafluorobutan-1-ol (202 grams, 1.1 moles, Sinochem Corp.), 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride (332 grams, 1.1 moles, 3M Company) and water (300 g) were combined in a 3-liter, 3-necked round bottom flask. The flask was equipped with a magnetic stirrer, cold water condenser, thermocouple, and addition funnel. Aqueous potassium hydroxide, 45 percent (149.3 grams, 1.22 moles, Aldrich Chemical Co.) was added dropwise via an addition funnel at such a rate that the temperature did not exceed 35° C. Once the addition of the base was complete the mixture was stirred for 16 hours at room temperature. Precipitated salts were then filtered from the mixture and the lower liquid fluorochemical product phase was separated from the upper aqueous phase. Unreacted 2,2,3,4,4,4-hexafluorobutan-1-ol and 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride were removed by atmospheric distillation. Approximately 400 grams of 2,2,3,4,4,4-hexafluorobutyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate were recovered at a purity of 98.9 percent as measured by gas chromatographic analysis.

reactant | 2,2,3,4,4,4-hexafluorobutan-1-ol | 1.1 moles, 202 grams | FC(CO)(C(C(F)(F)F)F)F | C4H4F6O
reactant | 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride | 1.1 moles, 3M, 332 grams | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 300 g | O | H2O
product | 2,2,3,4,4,4-hexafluorobutyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OCC(C(C(F)(F)F)F)(F)F)F | C8H3F15O3S
